US07612114B2
7-Methoxy-3-(2-nitrophenyl)-1,2-dihydronaphthalene
Synthesized from 1-bromo-2-nitrobenzene according to an analogous synthetic method to Preparation Example 76, tributyl(2-nitrophenyl)tin (7.3 g) and 6-methoxy-3,4-dihydronaphthalen-2-yl trifluoromethanesulfonate (2.2 g) were used according to an analogous synthetic method to Preparation Example 77 to provide the title compound (1.5 g).

reactant | 1-bromo-2-nitrobenzene | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | tributyl(2-nitrophenyl)tin | 7.3 g | C(CCC)[Sn](C1=C(C=CC=C1)[N+](=O)[O-])(CCCC)CCCC
reactant | 6-methoxy-3,4-dihydronaphthalen-2-yl trifluoromethanesulfonate | 2.2 g | FC(S(=O)(=O)OC1=CC2=CC=C(C=C2CC1)OC)(F)F | C12H11F3O4S
product | 7-Methoxy-3-(2-nitrophenyl)-1,2-dihydronaphthalene | 1.5 g | COC1=CC=C2C=C(CCC2=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C17H15NO3
